US07396844B1
Synthesis of 4-(2-imidazoline-2-yl)benzoic acid hydrochloride
1 g (4.58 mmol) of ethyl 4-(2-imidazoline-2-yl)benzoate was heated under reflux in 4 ml of hydrochloric acid and 8 ml of acetic acid. The solvent was evaporated to obtain the title compound.

reactant | ethyl 4-(2-imidazoline-2-yl)benzoate | 4.58 mmol, 1 g | N1C(=NCC1)C1=CC=C(C(=O)OCC)C=C1 | C12H14N2O2
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 4-(2-imidazoline-2-yl)benzoic acid hydrochloride | Cl.N1C(=NCC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C10H10N2O2.ClH/c13-10(14)8-3-1-7(2-4-8)9-11-5-6-12-9;/h1-4H,5-6H2,(H,11,12)(H,13,14);1H
